US06867205B2
5-Aminomethyl-6-phenyl-2-pyridin-4-yl-pyrimidin-4-ylamine
The title compound, MS: m/e=278.0 (M+H+), was prepared from isonicotinamidine and 2-benzylidene-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | isonicotinamidine | C(C1=CC=NC=C1)(=N)N | C6H7N3
reactant | 2-benzylidene-malononitrile | C(C1=CC=CC=C1)=C(C#N)C#N | C10H6N2
product | 5-Aminomethyl-6-phenyl-2-pyridin-4-yl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=CC=CC=C1)C1=CC=NC=C1)N | C16H15N5
